US04220647
To 1-(N-benzyloxycarbonyl-p-benzyloxyanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline p-toluenesulfonate (10.0 g) was added a saturated sodium bicarbonate aqueous solution and then the mixture was extracted with ethyl acetate. The extract was washed with water, dried and the solvent was distilled off to give 1-(N-benzyloxycarbonyl-p-benzyloxyanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline (8.2 g). To this residue (8.2 g) were added conc. hydrochloric acid (50 ml) and ethanol (50 ml) and the mixture was refluxed for 4 hours with stirring. The reaction mixture was concentrated to dryness under reduced pressure and the residue was pulverized with ether to give a powder of 1-(p-hydroxyanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline dihydrochloride (5.8 g), mp 170° to 184° C. (dec).

reactant | 1-(N-benzyloxycarbonyl-p-benzyloxyanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline p-toluenesulfonate | 10.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(=O)N(C1=CC=C(C=C1)OCC1=CC=CC=C1)CC1NCCC2=CC(=C(C=C12)O)O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-(N-benzyloxycarbonyl-p-benzyloxyanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline | 8.2 g | C(C1=CC=CC=C1)OC(=O)N(C1=CC=C(C=C1)OCC1=CC=CC=C1)CC1NCCC2=CC(=C(C=C12)O)O | C31H30N2O5
